US06872718B1
8-tert-Butyl-5-(4-fluorobenzoyl)-3,5,6,7-tetrahydro-2,2,4,6,6-pentamethyl-2H-furo[2,3-f]indole
8-tert-Butyl-3, 5, 6, 7-tetrahydro-2,2,4,6,6-pentamethyl-2H-furo[2,3-f]indole hydrochloride (715.8 mg, 2.21 mmol) was suspended in THF (20 ml). To the mixture was added a saturated aqueous solution of sodium hydrogen carbonate (50 ml) and stirred for 1 hour at room temperature. After extracting with isopropyl ether followed by drying over magnesium sulfate, the solvent was removed under reduced pressure. The residue was dissolved in THF (20 ml). To the solution were added triethylamine (0.35 ml, 2.51 mmol) and p-fluorobenzoyl chloride (371.8 mg, 2.34 mmol) and stirred at room temperature for 5 hours. To the reaction mixture was added a saturated aqueous solution of sodium hydrogen carbonate, and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=10:1) to obtain 417 mg of the title compound as an amorphous powder.

reactant | 8-tert-Butyl-3, 5, 6, 7-tetrahydro-2,2,4,6,6-pentamethyl-2H-furo[2,3-f]indole hydrochloride | 2.21 mmol, 715.8 mg | Cl.C(C)(C)(C)C=1C=2CC(NC2C(=C2C1OC(C2)(C)C)C)(C)C
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
reactant | triethylamine | 2.51 mmol, 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | p-fluorobenzoyl chloride | 2.34 mmol, 371.8 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 8-tert-Butyl-5-(4-fluorobenzoyl)-3,5,6,7-tetrahydro-2,2,4,6,6-pentamethyl-2H-furo[2,3-f]indole | 417 mg, Yield: 46% | C(C)(C)(C)C=1C=2CC(N(C2C(=C2C1OC(C2)(C)C)C)C(C2=CC=C(C=C2)F)=O)(C)C | C26H32FNO2
